### PR TITLE
feat: lemmas about `Nat.toDigits`

### PR DESCRIPTION
**Pull request by marcusrossel**
As discussed in https://github.com/leanprover/lean4/pull/8673.

### CODE REVIEW

**Comment by fgdorais** [comment]
Please summarize the discussion rather than just linking to it. That makes it easier for people here to catch up.

File: Batteries/Data/Nat/Digits.lean [hunk 1]
```diff
@@ -0,0 +1,31 @@
+/-
+Copyright (c) 2025 Marcus Rossel. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Marcus Rossel
+-/
+
+namespace Nat
+
+theorem isDigit_digitChar_iff_lt : n.digitChar.isDigit ↔ (n < 10) :=
```
Comment (eric-wieser) [inline Batteries/Data/Nat/Digits.lean]: Arguably this should be 
```suggestion
@[simp]
theorem isDigit_digitChar : n.digitChar.isDigit = n.blt 10 :=
```

Comment (Rob23oba) [reply Batteries/Data/Nat/Digits.lean]: `Nat.blt` though..? I'd rather do `decide (n < 10)` in that case

Comment (eric-wieser) [reply Batteries/Data/Nat/Digits.lean]: I don't mind much about the RHS, I just assumed that blt was simp-normal

Comment (Rob23oba) [reply Batteries/Data/Nat/Digits.lean]: `Nat.blt` is only used in the construction of `DecidableLT Nat` (and in some other places where fast kernel reduction matters)

Comment (eric-wieser) [reply Batteries/Data/Nat/Digits.lean]: I'm surprised that there's not a simp lemma in either direction

**Comment by marcusrossel** [comment]
I've added the lemmas `toDigits_10_of_lt_10` and `toDigits_10_natAbs_ofNat`, and generalized the title of this PR accordingly.

File: Batteries/Data/Nat/Digits.lean [hunk 2]
```diff
@@ -0,0 +1,36 @@
...
+  next => contradiction
+  next fuel ih =>
+    split at h
+    case' isFalse => apply ih (by omega) (fun h => ?_) h
+    all_goals
+      cases h
+      next => simp [mod_lt]
+      next hm => exact hc hm
+
+theorem isDigit_of_mem_toDigits_10 (h : c ∈ toDigits 10 n) : c.isDigit :=
```
Comment (eric-wieser) [inline Batteries/Data/Nat/Digits.lean]: This holds more generally as
```suggestion
theorem isDigit_of_mem_toDigits (k) (hk : k ≤ 10) (h : c ∈ toDigits k n) : c.isDigit :=
```
right?

Comment (marcusrossel) [reply Batteries/Data/Nat/Digits.lean]: This also requires `0 < k`. 

Side note: Base `1` currently returns garbage values which happen to be all `0`s, so it's covered by the proposed theorem. Should we expect base `1` to actually return the correct number of `0`s for a unary representation of the input?

Comment (marcusrossel) [reply Batteries/Data/Nat/Digits.lean:30]: I just noticed, the implementation for base `1` is in fact incorrect. E.g. `toDigits 1 3` returns `['0', '0', '0', '0']`. It only terminates in the first place, because the fuel counts down.

Comment (eric-wieser) [reply Batteries/Data/Nat/Digits.lean]: If you want that unary representation, you should use `Nat.digits` from Mathlib instead of `Nat.toDigits`.

File: Batteries/Data/Nat/Digits.lean [hunk 3]
```diff
@@ -0,0 +1,34 @@
...
+    c.isDigit := by
+  induction fuel generalizing n cs <;> rw [toDigitsCore] at h
+  next => exact hc h
+  next fuel ih =>
+    split at h
+    case' isFalse => apply ih (fun h => ?_) h
+    all_goals
+      cases h
+      next => simp [Nat.lt_of_lt_of_le (mod_lt _ hb₁) hb₂]
+      next hm => exact hc hm
```
Comment (fgdorais) [inline Batteries/Data/Nat/Digits.lean]: This style is easier to read than using `next =>`:
```suggestion
  induction fuel generalizing n cs with rw [toDigitsCore] at h
  | zero => exact hc h
  | succ fuel ih => 
    split at h
    case' isFalse => apply ih (fun h => ?_) h
    all_goals
      cases h with
      | head => simp [Nat.lt_of_lt_of_le (mod_lt _ hb₁) hb₂]
      | tail _ hm => exact hc hm
```

File: Batteries/Data/Nat/Digits.lean (hunk 2 above)
Comment (marcusrossel) [reply Batteries/Data/Nat/Digits.lean]: This is being discussed at https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.60Nat.2EtoDigits.60.20base.201/with/523028786 now.

**Comment by marcusrossel** [comment]
I've added the lemma `toDigits_append_toDigits`.

**Comment by Rob23oba** [comment]
I think there should be some general characterisation lemmas to avoid using `Nat.toDigitsCore`, e.g.:
```lean
theorem toDigits_base_zero (n : Nat) : toDigits 0 n = [n.digitChar]
theorem toDigits_base_one (n : Nat) : toDigits 1 n = List.replicate (n + 1) '0'
theorem toDigits_of_lt_base (h : n < b) : toDigits b n = [n.digitChar]
theorem toDigits_of_base_le (h : 1 < b) (h' : b ≤ n) : toDigits b n = toDigits b (n / b) ++ [(n % b).digitChar]
```
Then some of the others might be able to be proven with these instead of `toDigitCore`.

**Comment by marcusrossel** [comment]
@Rob23oba Is it desirable to have characterisation lemmas for bases `0` and `1`? I feel like this almost encourages relying on these "garbage values".

File: Batteries/Data/Nat/Digits.lean [hunk 4]
```diff
@@ -17,18 +17,61 @@ theorem isDigit_digitChar : n.digitChar.isDigit = decide (n < 10) :=
...
+      have : b ≤ b * n + d := Nat.le_trans (Nat.le_mul_of_pos_right _ hn) (le_add_right _ _)
+      cases Nat.div_eq_zero_iff.mp h <;> omega
+    case isFalse =>
+      have h : (b * n + d) / b = n := by
+        rw [mul_add_div (by omega), Nat.div_eq_zero_iff.mpr (.inr hd), Nat.add_zero]
+      have := (Nat.lt_mul_iff_one_lt_left hn).mpr hb₁
+      simp only [toDigitsCore_of_lt_base hd hdf, mul_add_mod_self_left, mod_eq_of_lt hd, h]
+      apply toDigitsCore_eq_of_lt_fuel hb₁ hnf (by omega)
+
+theorem toDigits_append_toDigits (hb₁ : 1 < b) (hb₂ : b ≤ 10) (hn : 0 < n) (hd : d < b) :
```
Comment (eric-wieser) [inline Batteries/Data/Nat/Digits.lean]: I think this is true with a bound of 16?

Comment (Rob23oba) [reply Batteries/Data/Nat/Digits.lean]: It's true for all bases starting at 2 and that has been fixed already

**Comment by fgdorais** [comment]
I'm on the fence about this PR. Several lemmas belong in `Char` and not `Nat`, but the main issue is that the functions involved are right on the edge with "implementation details". 

I do think it's important to have theorems to prove facts about these. I would recommend a different approach:

1. Add a function that calculates the representation in an arbitrary base `b ≥ 2` of a `Nat` (as a `List (Fin b)` or an `Array (Fin b)` or both, whichever is most convenient).
2. Add theorems that prove the basic arithmetic properties of the base `b` representation for the function from item 1.
3. Prove the correctness of core's implementation by proving that it is a `map` of the function from item 1 for relevant bases.

I don't think string representation is too relevant. For example, Batteries will eventually need to support Base-64 encoding, which is incompatible with traditional representation in bases 2, 8, 10, 16.

**Comment by eric-wieser** [comment]
> 1. Add a function that calculates the representation in an arbitrary base `b ≥ 2` of a `Nat` (as a `List (Fin b)` or an `Array (Fin b)` or both, whichever is most convenient).

Isn't this basically the `Nat.digits` function that's already in mathlib?

**Comment by fgdorais** [comment]
Perhaps. If so, that should make it easier to adapt this PR!

**Comment by eric-wieser** [comment]
I'm not sure I understand the proposal; surely we don't want a third version of this function?

Is the suggestion to upstream `Nat.digits`?  If so, it probably would save a lot of review time to just copy the file exactly from mathlib, and then make a subsequence cleanup if necessary.

**Comment by fgdorais** [comment]
I checked out `Nat.digits` in Mathlib. It is not suitable for Batteries but what is needed would be a more efficient drop-in replacement for `Nat.digitsAux`. I'm happy to do that in the next couple of weeks.

@marcusrossel How urgent is your need for this PR?

**Comment by marcusrossel** [comment]
@fgdorais not urgent at all :)
I'd also be happy to help with the version you have in mind.

**Comment by fgdorais** [comment]
WIP PR #1293 adds the functions I'm thinking about. The `toDigitsBE` function is the main one needed here. However, I haven't finished proving its correctness. `toDigitsLE .. |>.reverse` can be used in the mean time but that function is not as efficient as `toDigitsBE`.

@marcusrossel If you are still inclined to help, you can start reviewing this PR when you have time. The parts leading up to `toDigitsBE` are unlikely to change in non-trivial ways before final version.

**Comment by marcusrossel** [comment]
I'll be rather busy the next 2 weeks, but if it's not too late by then, I'll take a look :)

**Comment by marcusrossel** [comment]
Uh, @fgdorais was this merge intentional?
